US07129232B2
To a solution of benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate (901 mg) in N,N-dimethylformamide (1.8 ml) was added N-(trimethylsilyl)acetamide (720 mg), and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added a solution of tert-butyl 2-[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxocyclobut-1-en-1-yl)amino]ethylcarbamate (682 mg) in N,N-dimethylformamide (6.3 ml), and the whole mixture was stirred at 35–40° C. for 7 hours. To the resulting reaction mixture was added ethyl acetate, and the precipitate was filtered off. The filtrate was washed successively with water and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to about 5 ml in vacuo. The concentrate was poured into diisopropyl ether (80 ml), and the resulting precipitate was collected by filtration and dried in vacuo. To a solution of the resulting solid in methylene chloride (2.6 ml) were added anisole (0.88 ml) and trifluoroacetic acid (2.6 ml). The resulting solution was stirred at room temperature for 3 hours and poured into diisopropyl ether (80 ml). The resulting precipitate was collected by filtration and dried in vacuo to give a crude product (580 mg), which was purified by preparative HPLC utilizing ODS column. The eluate containing a desired product was concentrated to about 30 ml in vacuo. The concentrate was adjusted to about pH 3 with concentrated hydrochloric acid and chromatographed on Diaion® HP-20 (Mitsubishi Chemical Corporation) eluting with 30% aqueous 2-propanol. The eluate was concentrated to about 10 ml in vacuo and lyophilized to give 3-{[3-amino-4-({2-[(2-aminoethyl)amino]-3,4-dioxo-1-cyclobuten-1-yl}amino)-2-methyl-1-pyrazolio]methyl}-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate (22 mg) as an amorphous solid.

reactant | benzhydryl 7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido]-3-iodomethyl-3-cephem-4-carboxylate | 901 mg | NC1=NC(=NS1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CI)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C33H35IN6O7S2
reactant | N-(trimethylsilyl)acetamide | 720 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | tert-butyl 2-[(2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3,4-dioxocyclobut-1-en-1-yl)amino]ethylcarbamate | 682 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC1=C(C(C1=O)=O)NCCNC(OC(C)(C)C)=O | C34H36N6O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.8 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 6.3 ml | CN(C=O)C | C3H7NO
product | 3-{[3-amino-4-({2-[(2-aminoethyl)amino]-3,4-dioxo-1-cyclobuten-1-yl}amino)-2-methyl-1-pyrazolio]methyl}-7β-[(Z)-2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(1-carboxy-1-methylethoxyimino)acetamido]-3-cephem-4-carboxylate | 22 mg | NC=1N([N+](=CC1NC1=C(C(C1=O)=O)NCCN)CC=1CS[C@H]2N(C1C(=O)[O-])C([C@H]2NC(\C(=N/OC(C)(C)C(=O)O)\C2=NSC(=N2)N)=O)=O)C | C26H30N12O9S2
